US06048995
Preparation of 4-acetoxymethyl-2,6-di-t-butylphenol
A mixture of 4-chloromethyl-2,6-di-t-butylphenol (2.55 g) and potassium acetate (0.98 g) in acetone (30 mL) was stirred at 20° C. for 24 hours. After evaporation of the solvent the residue was partioned between water and n-hexane. The hexane extract was concentrated and the residue slurried in n-hexane (6 mL) at about 0° C. The crystals were collected via filtration and dried to give 1.54 g, 45% yield, of the title compound.

reactant | 4-chloromethyl-2,6-di-t-butylphenol | 2.55 g | ClCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H23ClO
reactant | potassium acetate | 0.98 g | C(C)(=O)[O-].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 4-acetoxymethyl-2,6-di-t-butylphenol | 45% yield | C(C)(=O)OCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C17H26O3
